US05925635
1-(1-benzoylpiperidin-4-yl)-3-(3-cyanophenyl)-5-ethenyl-2-imidazolidinone
The free base of 1-(piperidin-4-yl)-3-(3-amidinophenyl)-5-ethenyl-2-imidazolidinone (1.99 g, 6.72 mmol) in tetrahydrofuran (50 ml) and triethylamine (1.36 g, 13,44 mmol) was cooled to 0° C. and benzoyl chloride in tetrahydrofuran (10 ml) was added. After 4 h the reaction was complete; the solvent was removed in vacuo and the residue dissolved in ethyl acetate. The ethyl acetate solution was washed with 1N HCl and brine, then dried (Na2SO4) and evaporated. The desired product was isolated by flash chromatography using silica get and 2:1 ethyl acetate as eluent. There was obtained 0.63 g of pure 1-(1-benzoylpiperidin-4-yl)-3-(3-cyanophenyl)-5-ethenyl-2-imidazolidinone; LRMS (M+H)+ m/z 401.

reactant | 1-(piperidin-4-yl)-3-(3-amidinophenyl)-5-ethenyl-2-imidazolidinone | 6.72 mmol, 1.99 g | N1CCC(CC1)N1C(N(CC1C=C)C1=CC(=CC=C1)C(N)=N)=O | C17H23N5O
reactant | triethylamine | 13,44 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(1-benzoylpiperidin-4-yl)-3-(3-cyanophenyl)-5-ethenyl-2-imidazolidinone | C(C1=CC=CC=C1)(=O)N1CCC(CC1)N1C(N(CC1C=C)C1=CC(=CC=C1)C#N)=O | C24H24N4O2
